US08802843B2
passing the isomerized reactor mixture to a second SMB zone comprising a plurality of adsorbent columns containing a strong acid cation calcium exchange resin stationary phase and operating in a 2-3-2-2 SMB cycle with water as a desorbent to provide a second extract stream comprising substantially pure d-tagatose, water, and glycerol and a second raffinate stream comprising substantially pure d-galactose, water, salts and a minor portion of d-tagatose;

reactant | calcium | [Ca] | Ca
reactant | water | O | H2O
reactant | glycerol | OCC(O)CO | C3H8O3
product | d-tagatose | OCC(=O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
